US08912186B2
By a procedure similar to that of example 1.4, starting from 4-chloro-1,2-phenylenediamine and 3-(2,4-dichlorophenyl)glutaric anhydride, 4-(5-chloro-2-benzimidazolyl)-3-(2,4-dichlorophenyl)butanoic acid•HCl was obtained as light greyish solid.

reactant | 4-chloro-1,2-phenylenediamine | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | 3-(2,4-dichlorophenyl)glutaric anhydride | ClC1=C(C=CC(=C1)Cl)C1CC(=O)OC(C1)=O | C11H8Cl2O3
product | 4-(5-chloro-2-benzimidazolyl)-3-(2,4-dichlorophenyl)butanoic acid•HCl | ClC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=C(C=C(C=C2)Cl)Cl)C=C1.Cl | InChI=1S/C17H13Cl3N2O2.ClH/c18-10-1-3-12(13(20)7-10)9(6-17(23)24)5-16-21-14-4-2-11(19)8-15(14)22-16;/h1-4,7-9H,5-6H2,(H,21,22)(H,23,24);1H
